US04962103
(2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-acetylthiopyrrolidine (200 mg) was dissolved in 2 ml of dry tetrahydrofuran. Methyl isocyanate (0.168 ml) was added thereto. The mixture was refluxed for 10 hours and distilled to remove the solvent. The residue was purified by silica gel chromatography to obtain (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-methylaminocarbonyloxymethyl-4-acetylthiopyrrolidine.

reactant | (2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-acetylthiopyrrolidine | 200 mg | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CO)C=C1 | C15H18N2O6S
reactant | Methyl isocyanate | 0.168 ml | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-methylaminocarbonyloxymethyl-4-acetylthiopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)COC(=O)NC)C=C1 | C17H21N3O7S
